US07365085B2
a) N-(3-Hydroxy-phenyl)-carbamic acid tert-butyl ester
3-aminophenol (2.0 g, 18.3 mmol) was dissolved in dioxane (50 mL) and water (25 mL) and treated with triethylamine (3.8 mL, 27.5 mmol) and di-tert-butyl-dicarbonate (6.0 g, 27.5 mmol) at room temperature. The solution was maintained for 18 hours and then the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography (35 g Redisep column, silica, 40 um, 60 Å, 35 mL/min, A: hexanes, B: EtOAc, B: 0% for 5 min, B: 0% to 50% over 30 min; detection at 214 nm) to give 2.7 g (12.9 mmol, 71%) of the title compound as a white solid. 1H NMR (CDCl3, 400 MHz) □: 7.2 (m, 2H), 6.8 (m, 1H), 6.5 (m, 2H), 5.8 (bs, 1H), 1.5 (s, 9H);

reactant | 3-aminophenol | 18.3 mmol, 2.0 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | water | 25 mL | O | H2O
reactant | triethylamine | 27.5 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 27.5 mmol, 6.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-(3-Hydroxy-phenyl)-carbamic acid tert-butyl ester | 12.9 mmol, 2.7 g, 71% | C(C)(C)(C)OC(NC1=CC(=CC=C1)O)=O | C11H15NO3
